US07932279B2
To the mixture of 5-(2,4-bis-benzyloxy-5-bromo-phenyl)-1-(3-methoxy-propyl)-1H-tetrazole (200 μmol), and 4-(trifluoromethoxy)phenyl boronic acid (2 eq.) was added palladium tetrakistriphenylphosphine (45 mg), followed by toluene (1.2 ml), ethanol (1.2 ml) and saturated NaHCO3 solution (1.2 ml). The resulting mixture was stirred at 80° C. for 12 hours. The product was extracted with ethyl acetate (3×2000 μL), and the combined organic layers were washed with aqueous NaCl (2 ml), and dried. To the residue was added palladium on alumina (100 μL), followed by MeOH (2 ml). Triethyl silane (0.5 ml) was added to the reaction, and the resulting mixture was stirred at room temperature for 70 hours. Hexane (2 ml) was added to the reaction mixture and the top 4.5 ml of the solution was filtered through Baker filter cartridges and then dried in a genevac. The residue was purified by reverse phase HPLC to provide 5-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-4′-trifluoromethoxy-biphenyl-2,4-diol. LCMS: 411 [M+H].

reactant | 5-(2,4-bis-benzyloxy-5-bromo-phenyl)-1-(3-methoxy-propyl)-1H-tetrazole | 200 μmol | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Br)C1=NN=NN1CCCOC | C25H25BrN4O3
reactant | 4-(trifluoromethoxy)phenyl boronic acid | 2 eq. | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | toluene | 1.2 ml | C1(=CC=CC=C1)C | C7H8
reactant | NaHCO3 | 1.2 ml | C(=O)(O)[O-].[Na+]
solvent | ethanol | 1.2 ml | C(C)O | C2H6O
product | 5-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-4′-trifluoromethoxy-biphenyl-2,4-diol | COCCCN1N=NN=C1C1=C(C=C(C(=C1)C1=CC=C(C=C1)OC(F)(F)F)O)O | C18H17F3N4O4
